US06903129B2
A mixture of 260 mg (0.66 mmol) (12R,21R)-14,19-dioxa-1,8-diaza-tricyclo[19.3.0.0 8,12]tetracos-16-ene-2,7,13,20-tetraone and 30 mg 10% palladium/carbon in 10 ml ethylacetate was hydrogenated over night. Filtration and removal of the solvent yielded 255 mg (98%) (12R,21R)-14,19-dioxa-1,8-diaza-tricyclo[19.3.0.0 8,12]tetracosane-2,7,13,20-tetraone as a light yellow oil, MS m/e (%): 395 (M+H+, 100).

reactant | (12R,21R)-14,19-dioxa-1,8-diaza-tricyclo[19.3.0.0 8,12]tetracos-16-ene-2,7,13,20-tetraone | 0.66 mmol, 260 mg | N12C(CCCCC(N3CCC[C@@H]3C(OCC=CCOC([C@H]2CCC1)=O)=O)=O)=O | C20H28N2O6
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
catalyst | palladium/carbon | 30 mg | [Pd] | Pd
product | (12R,21R)-14,19-dioxa-1,8-diaza-tricyclo[19.3.0.0 8,12]tetracosane-2,7,13,20-tetraone | 255 mg, 98% | N12C(CCCCC(N3CCC[C@@H]3C(OCCCCOC([C@H]2CCC1)=O)=O)=O)=O | C20H30N2O6
